Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac cath:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of significant stenosis.
* Left Anterior Descending
The LAD is free of significant stenosis.
* Circumflex
There is a 99% stenosis in the Mid Circumflex. The lesion has a 
TIMI flow of 2 and has no noted
calcification. This lesion is further described as diffusely 
diseased. An intervention was performed on the
Mid Circumflex with a final stenosis of 0%. There were no lesion 
complications.
* Right Coronary Artery
The RCA has mild irregularities.
Interventional Details
Heparin 3000 with ACT ___. Ticagrelor in ED. ___ FrenchXB LAD 3.5 
guide provided good support.
Prowater wire to disatl LPL. 2.5 x 12 balloon at 6 ATM x 3 
inflations with loss of distal flow. 3.0 x 32
Promus ___ at 12 ATM with restoration of flow. Stent 
post-dilated with 3.0 x 20 NC balloon at
___ ATM. Final angio showed no residual, no dissection and 
TIMI ___levation resolved.

 
History of Present Illness:
Mr ___ is a ___ year old man with a history of hypertension, 
presenting with acute onset chest pain, diagnosed with 
inferior/posterior STEMI, now s/p DES to the left circumflex.  
 Patient is generally healthy and active with frequent exercise. 
Only medical comorbidity to this point is hypertension. He was 
exercising in the gym (weight lifting and running) around 7pm, 
and near the end of the work-out developed stabbing retrosternal 
chest pain radiating to the arm. He returned home, and with rest 
and a shower felt a little improvement in his chest pain. He 
went to sleep still having chest pain, but around 1130 woke with 
worsening pain, diaphoresis, dyspnea, and decided to come to the 
ED.  
 In the ED, initial vitals were: T 97.9, HR 89, BP 167/90, RR 
18, SPO2 100% on RA.  
 EKG showed ST elevations in leads II, III, aVF, ST depressions 
in leads V1-2.  
 - Labs notable for:  
 --troponin 0.10  
 --normal chem 7, normal CBC, normal coags,  
 - Patient was given: aspirin 324mg PO, heparin bolus 4000U IV, 
morphine 4mg IV, ticagrelor 180mg PO.  
 He was taken to the cath lab emergently. Cath demonstrated 99% 
stenosis in the mid circumflex, and a DES was deployed there. 
There was question of LCx dissection with balloon inflation, 
improved with the expansion of the stent. Door to balloon time 
was 60 minutes. Access via right radial artery.  
 Upon arrival to the floor, patient reports that he is pain 
free, and denies other symptoms.  
 

 
Past Medical History:
Hypertension  
Appendectomy  
 
Social History:
___
Family History:
father with hypertension  

 
Physical Exam:
VS: T98, BP 121/73, HR 62, RR 18, O2 96% on RA   
Tele: no alarms  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric
Neck: Supple 
CV: RRR, nl S1 S2, no m/r/g 
Lungs: CTA b/l, no wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended
GU: No foley  
Ext: WWP, DP 2+ bilaterally  
Neuro: CNII-XII intact
 
Pertinent Results:
admissions labs:
___ 05:46AM   GLUCOSE-93 UREA N-14 CREAT-0.9 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-20* ANION GAP-18
___ 05:46AM   CALCIUM-9.1 PHOSPHATE-3.6 MAGNESIUM-2.7* 
CHOLEST-173
___ 05:46AM   %HbA1c-5.6 eAG-114
___ 05:46AM   TRIGLYCER-126 HDL CHOL-36 CHOL/HDL-4.8 
LDL(CALC)-112
___ 05:46AM   WBC-5.8 RBC-5.28 HGB-15.9 HCT-46.9 MCV-89 
MCH-30.1 MCHC-33.9 RDW-12.4 RDWSD-40.7
___ 05:46AM   PLT COUNT-285
___ 01:39AM   TYPE-ART PH-7.35 INTUBATED-NOT INTUBA
___ 01:39AM   GLUCOSE-104 NA+-131* K+-3.5 CL--97 TCO2-24
___ 01:39AM   freeCa-1.13
___ 12:45AM   GLUCOSE-117* UREA N-15 CREAT-1.0 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-98 TOTAL CO2-26 ANION GAP-18
___ 12:45AM   estGFR-Using this
___ 12:45AM   cTropnT-0.10*
___ 12:45AM   WBC-7.7# RBC-5.50 HGB-16.5 HCT-49.0 MCV-89 
MCH-30.0 MCHC-33.7 RDW-12.4 RDWSD-40.6
___ 12:45AM   NEUTS-23.2* LYMPHS-60.9* MONOS-10.5 EOS-3.5 
BASOS-1.8* IM ___ AbsNeut-1.80 AbsLymp-4.71* AbsMono-0.81* 
AbsEos-0.27 AbsBaso-0.14*
___ 12:45AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:45AM   PLT COUNT-296
___ 12:45AM   ___ PTT-31.1 ___

Discharge labs:
___ 07:00AM BLOOD WBC-5.6 RBC-5.15 Hgb-15.9 Hct-46.2 MCV-90 
MCH-30.9 MCHC-34.4 RDW-12.4 RDWSD-41.1 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-94 UreaN-21* Creat-1.2 Na-140 
K-4.5 Cl-101 HCO3-25 AnGap-19
___ 07:00AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.2

CARDIAC CATH:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of significant stenosis.
* Left Anterior Descending
The LAD is free of significant stenosis.
* Circumflex
There is a 99% stenosis in the Mid Circumflex. The lesion has a 
TIMI flow of 2 and has no noted
calcification. This lesion is further described as diffusely 
diseased. An intervention was performed on the
Mid Circumflex with a final stenosis of 0%. There were no lesion 
complications.
* Right Coronary Artery
The RCA has mild irregularities.
Interventional Details
Heparin 3000 with ACT ___. Ticagrelor in ED. ___ FrenchXB LAD 3.5 
guide provided good support.
Prowater wire to disatl LPL. 2.5 x 12 balloon at 6 ATM x 3 
inflations with loss of distal flow. 3.0 x 32
Promus ___ at 12 ATM with restoration of flow. Stent 
post-dilated with 3.0 x 20 NC balloon at
___ ATM. Final angio showed no residual, no dissection and 
TIMI ___levation resolved.
Intra-procedural Complications: None
--------------

Conclusions   
 The left atrium and right atrium are normal in cavity size. 
Color-flow imaging of the interatrial septum raises the 
suspicion of an atrial septal defect, but this could not be 
confirmed on the basis of this study. The estimated right atrial 
pressure is at least 15 mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with hypokinesis 
of the basal inferior and basal-mid inferolateral walls. The 
remaining segments contract normally. Overall left ventricular 
systolic function is low normal (quantitative biplane LVEF 51%). 
Doppler parameters are indeterminate for left ventricular 
diastolic function. There is no left ventricular outflow 
obstruction at rest or with Valsalva. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 
IMPRESSION: Mild regional left ventricular dysfunction c/w CAD, 
with borderline systolic function. Mild mitral regurgitation.  

 
Brief Hospital Course:
___ with PMH of HTN, p/w STEMI s/p DES to LCx. 

#STEMI: acute onset CP with exertion, found to have STEMI in 
inferior leads, s/p DES to LCx. Question of dissection during 
catheterization, but resolved s/p stent. TTE shows LVEF 51%, 
mild regional left ventricular dysfunction c/w CAD, mild mitral 
regurgitation. Patient was discharged home on ASA 81 mg, 
ticagrelor 90 mg bid(30d supply. Also taking atorvastatin 80 mg, 
metoprolol xl 25 mg. 

# Hypertension: continued home amlodipine. Stopped HCTZ and 
started lisinopril given CAD.

Transitional issues:
- patient will need to follow up with a cardiologist
- needs to be reminded to take DAPT consistently 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth every 12 
hours Disp #*60 Tablet Refills:*0 
6.  amLODIPine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
STEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
 It was a pleasure taking care of you at the ___ 
___. You were admitted because you had a 
heart attack.  
 It is very important to take all of your heart healthy 
medications. Very importantly, you are now taking aspirin 81 mg 
once a day and ticagrelor 90 mg twice a day. These two 
medications keep the stents in the vessels of the heart open and 
help reduce your risk of having a future heart attack. If you 
stop these medications or miss ___ dose, you risk causing a blood 
clot forming in your heart stents, and you may die from a 
massive heart attack. Please DO NOT STOP taking either 
medication without taking to your heart doctor, even if another 
doctor tells you to stop the medications. 

Also, take Lisinopril 2.5 mg PO/NG DAILY, amLODIPine 10 mg PO/NG 
DAILY,  Metoprolol Succinate XL 25 mg PO DAILY for your heart 
health. 
 
 We wish you the best with your health,  
 Your ___ Cardiac Care Team  

 
Followup Instructions:
___